US05444080
A mixture of diethyl [1-{(2-chlorophenyl)methyl}-2- propylthio-1H-imidazol-5-yl]phenylmethyl-malonate (0.66 g, 1.28 mmol), sodium carbonate (1.36 g, 1.28 mmol), ethanol (15 mL) and water (10 mL)was refluxed on a steam bath for 18 hours. The mixture was concentrated to a small volume, some insolubles were filtered, the aqueous layer was washed with diethyl ether and then the aqueous phase was adjusted to pH 3.4 with aqueous hydrochloric acid. The product was extracted into methylene chloride, washed with water, dried and concentrated to give 2-[1-{(2-chlorophenyl)methyl}-2- propylthio-1H-imidazol-5-yl]-3-phenyl-propionic acid; mp 60°-63° C.

reactant | diethyl [1-{(2-chlorophenyl)methyl}-2- propylthio-1H-imidazol-5-yl]phenylmethyl-malonate | 1.28 mmol, 0.66 g | ClC1=C(C=CC=C1)CN1C(=NC=C1C(C(=O)OCC)(C(=O)OCC)CC1=CC=CC=C1)SCCC | C27H31ClN2O4S
reactant | sodium carbonate | 1.28 mmol, 1.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
product | 2-[1-{(2-chlorophenyl)methyl}-2- propylthio-1H-imidazol-5-yl]-3-phenyl-propionic acid | ClC1=C(C=CC=C1)CN1C(=NC=C1C(C(=O)O)CC1=CC=CC=C1)SCCC | C22H23ClN2O2S
